US04518597
6-[4-(1-Oxido-2-pyridylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 2-mercapto-pyridine-1-oxide.

reactant | 6-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C14H18ClNO3
reactant | 2-mercapto-pyridine-1-oxide | SC1=[N+](C=CC=C1)[O-] | C5H5NOS
product | 6-[4-(1-Oxido-2-pyridylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | [O-][N+]1=C(C=CC=C1)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C19H22N2O4S
